US07005282B2
0.15 mole of 1-methylimidazole and 0.125 mole of 1-chloro-3-phenylpropane were introduced into a 100 mL round bottom flask and stirred at 70° C. for one day to obtain 1-(3-phenylpropyl)-3-methylimidazolium chloride (yield 99%).

reactant | 1-methylimidazole | 0.15 mole | CN1C=NC=C1 | C4H6N2
reactant | 1-chloro-3-phenylpropane | 0.125 mole | ClCCCC1=CC=CC=C1 | C9H11Cl
product | 1-(3-phenylpropyl)-3-methylimidazolium chloride | yield 99% | [Cl-].C1(=CC=CC=C1)CCC[N+]1=CN(C=C1)C | InChI=1S/C13H17N2.ClH/c1-14-10-11-15(12-14)9-5-8-13-6-3-2-4-7-13;/h2-4,6-7,10-12H,5,8-9H2,1H3;1H/q+1;/p-1
